US06949571B2
(14c) 3-Nitro-1-phenyl-5-(2-pyridyl)-1,2-dihydropyridin-2-one
1.27 g of 5-bromo-3-nitro-1-phenyl-1,2-dihydropyridin-2-one, 2.38 g of 2-tri-n-butyl stannyl pyridine and 248 mg of tetrakistriphenylphosphine palladium were added to 20 ml of xylene, followed by stirring at 120° C. overnight in nitrogen atmosphere. The reaction mixture was purified by silica gel chromatography (ethyl acetate/hexane system), to give 638 mg of the title compound.

reactant | 5-bromo-3-nitro-1-phenyl-1,2-dihydropyridin-2-one | 1.27 g | BrC=1C=C(C(N(C1)C1=CC=CC=C1)=O)[N+](=O)[O-] | C11H7BrN2O3
solvent | xylene | 20 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 3-Nitro-1-phenyl-5-(2-pyridyl)-1,2-dihydropyridin-2-one | 638 mg | [N+](=O)([O-])C=1C(N(C=C(C1)C1=NC=CC=C1)C1=CC=CC=C1)=O | C16H11N3O3
